US05300594
A. Synthesis of 4,4'-bis(2-Nitrophenoxy)-alpha-methylstilbene
4,4'-Dihydroxy-alpha-methylstilbene (22.6 grams, 0.20 hydroxyl equivalent) from Example 1-B, o-chloronitrobenzene (39.4 grams, 0.25 mole), -325 mesh anhydrous potassium carbonate (34.5 grams, 0.25 mole) and N,N-dimethylformamide (200 mililiters) are added to a reactor and stirred under a nitrogen atmosphere with heating to 130 deg. C. After 9 hours at the 130 deg. C. temperature, high pressure liquid chromatographic analysis demonstrates that complete conversion of the 4,4'-dihydroxy-alpha-methylstilbene to a single major product has occurred. At this time, the reaction slurry is cooled to room temperature (24 deg. C.), filtered, then rotary evaporated to a constant weight of 53.6 grams of reddish brown colored liquid product.

reactant | 4,4'-Dihydroxy-alpha-methylstilbene | 22.6 grams | OC1=CC=C(C=C1)C(=CC1=CC=C(C=C1)O)C | C15H14O2
reactant | o-chloronitrobenzene | 0.25 mole, 39.4 grams | ClC1=C(C=CC=C1)[N+](=O)[O-] | C6H4ClNO2
reactant | potassium carbonate | 0.25 mole, 34.5 grams | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 4,4'-bis(2-Nitrophenoxy)-alpha-methylstilbene | [N+](=O)([O-])C1=C(OC2=CC=C(C=C2)C(=CC2=CC=C(C=C2)OC2=C(C=CC=C2)[N+](=O)[O-])C)C=CC=C1 | C27H20N2O6
